US06316589B1
18 g of the 3,3′-diiodoazobenzene was dissolved in 150 ml of TMF and 210 ml of acetic acid and 16.8 g of zinc were added to the solution and refluxed. After the reaction was completed, 30 ml of phosphoric acid was added to the reaction mixture and extracted with methylene chloride. Hydrochloric acid was added to the extracted methylene chloride layer and neutralized to give 2,2′-diiodo-4,4′-diaminobiphenyl.

reactant | 3,3′-diiodoazobenzene | 18 g | IC=1C=C(C=CC1)N=NC1=CC(=CC=C1)I | C12H8I2N2
reactant | phosphoric acid | 30 ml | P(O)(O)(O)=O | H3O4P
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 16.8 g | [Zn] | Zn
product | 2,2′-diiodo-4,4′-diaminobiphenyl | IC1=C(C=CC(=C1)N)C1=C(C=C(C=C1)N)I | C12H10I2N2
